* C:\proj\the-bog-standard\spice\class_ab-gate-driver-pnp-ltp.asc
V3 0 B- 40
R9 OUT FB 22k
R7 FB 0 1k
C4 FB FB 220µ
R2 N013 0 22k
C2 N013 0 68p
R1 N013 IN 150
C5 N021 N020 33p
Q7 N003 N017 N021 0 BD139C
R11 N003 N017 10k
R12 N017 N021 865
C3 OUT N016 100n
R20 N016 0 10
V4 FB NEG_IN AC 0
V1 B+ 0 40
C6 N003 N021 10µ
V5 SINE 0 SINE(0 {a} {f}) AC 1
R18 N014 N018 2k
R23 N015 N014 2k
C7 N014 0 159.2n
C8 N018 N019 79.62n
C9 N019 N015 79.62n
R28 N019 0 1k
L3 OUT OUT 1m
R31 OUT 0 8
M1 B+ N007 N011 N011 IRFP240
M2 B- N026 N024 N024 IRFP9240
R8 N007 N006 47
R32 N026 N025 47
D2 N012 OUT 1N4148
D4 N012 N006 UFZV8_2B
D5 N022 OUT UFZV8_2B
D9 N022 N025 1N4148
C10 B+ 0 7m
C12 0 B- 7m
C1 IN IN 4.7µ
Q5 B+ N003 N006 0 BD139C
Q9 B- N021 N025 0 BD140C
R25 N006 N025 680
C11 N006 N025 10µ
C13 N021 0 68p
C14 N003 0 68p
B1 SQR 0 v=if(time>1e-6,{a}*sgn(v(sine)),0)
B2 IN 0 V=if({square}>0,v(sqr),v(sine))
Q10 N021 N027 N030 0 BD139C
Q13 0 N020 N027 0 2N5550
R16 N030 B- 22
R17 N027 B- 1k
D1 FB FB 1N4148
Q6 N003 N005 N002 0 BD140C
R10 B+ N002 47
Q14 N005 N002 B+ 0 2N5401
R19 N005 0 10k
Q8 N023 N023 N029 0 2N5550
Q12 N020 N023 N028 0 2N5550
R13 N028 B- 100
R14 N029 B- 100
Q3 N009 N004 N001 0 2N5401
R3 B+ N001 470
Q4 N004 N001 B+ 0 2N5401
R4 N004 0 10k
R24 N010 N009 100
R26 N009 N008 100
Q1 N023 NEG_IN N010 0 2N5401
Q2 N020 N013 N008 0 2N5401
Q11 N020 N030 B- 0 2N5550
R15 N011 OUT 0.33
R22 OUT N024 0.33
D3 N013 NEG_IN 1N4148
D6 NEG_IN N013 1N4148
.model D D
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=1k a=0.5 square=1 sim_time=100m delay=100m
.tran 0 {sim_time+delay} {delay} 100n
.four {f} 50 -1 v(out)
.option plotwinsize=0 NoOpiter numdgt=15
* .ac dec 1000 1 10000k
* .noise out in dec 1000 1 1meg
* Notch filter for time domain distortion test
* f - Input frequency\na - Input amplitude\nsquare - Set to non-zero for square wave input\nsim_time - Simulation time (not counting settling delay)\ndelay - Settling delay. Set to several seconds for accurate THD
.backanno
.end
