* C:\proj\the-bog-standard\spice\class_ab-gate-driver-pnp-ltp.asc
V3 0 B- 40
R14 OUT FB 22k
R12 FB N024 1k
C4 N024 0 1; 220µ
R4 N016 0 22k
C1 N018 0 220p
R1 N018 IN 1k
C6 N025 N027 47p
Q11 N004 N023 N025 0 BD139C
R17 N004 N023 10k
R18 N023 N025 865
C15 OUT N020 100n
R§E24 N020 0 10
V1 B+ 0 40
C7 N004 N025 10µ
V5 SINE 0 SINE(0 {a} {f}) AC 1
R218 N031 N034 2k
R223 N032 N031 2k
C207 N031 0 159.2n
C208 N034 N038 79.62n
C209 N038 N032 79.62n
R228 N038 0 1k
M§Q15 B+ N008 OUT OUT IRFP240
M§Q16 B- N030 OUT OUT IRFP9240
R22 N008 N007 68
R23 N030 N029 68
D5 N014 OUT 1N4148
D4 N014 N008 UMZ5_1N
D6 N026 OUT UMZ5_1N
D7 N026 N030 1N4148
C310 B+ 0 7m
C312 0 B- 7m
C3 N016 N015 1; 4.7µ
Q13 B+ N004 N007 0 BD139C
Q14 B- N025 N029 0 BD140C
R21 N007 N029 680
C10 N007 N029 220n
C9 N025 0 47p
C8 N004 0 47p
B1 SQR 0 v=if(time>1e-6,{a}*sgn(v(sine)),0)
B2 IN 0 V=if({square}>0,v(sqr),v(sine))
Q12 N025 N033 N037 0 BD139C
Q8 0 N027 N033 0 2N5550
R20 N037 B- 33
R13 N033 B- 1k
D3 0 N024 1N4148
Q10 N004 N006 N003 0 BD140C
R19 B+ N003 47
Q9 N006 N003 B+ 0 2N5401
R15 N006 N013 4.7k
Q5 N028 N028 N036 0 2N5550
Q3 N027 N028 N035 0 2N5550
R7 N035 B- 100
R11 N036 B- 100
Q4 N011 N005 N002 0 2N5401
R9 B+ N002 470
Q1 N005 N002 B+ 0 2N5401
R5 N005 N009 4.7k
R10 N012 N011 100
R8 N011 N010 100
Q6 N028 NEG_IN N012 0 2N5401
Q2 N027 N016 N010 0 2N5401
R405 N016 N015 {dc_couple_res}
R406 0 N024 {dc_couple_res}
R115 NC_01 N021 6.8
L3 N021 N022 1m
C115 N022 0 500µ
L104 N022 0 20m
R122 N022 0 22
V2 FB NEG_IN AC 0
Q7 N027 N037 B- 0 2N5550
R6 N009 0 4.7k
R16 N013 0 4.7k
R30 OUT 0 8
C2 B+ N009 4.7µ
C5 B+ N013 4.7µ
D1 NEG_IN N016 1N4148
D2 N016 NEG_IN 1N4148
C318 N001 0 200µ
C319 0 N017 200µ
R329 N001 B+ 1
R331 N017 B- 1
R33 N019 N018 {r_vol_hi}
R404 N019 0 {r_vol_lo}
R3 N019 N015 470
.model D D
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=1k a=0.8 square=0 sim_time=100m delay=0 dc_coupled=0 r_pot=50k vol=1
.param dc_couple_res=if({dc_coupled}>0,1p,10G)
.param r_vol_hi=1m+(1-vol)*r_pot r_vol_lo=1m+vol*r_pot
.tran 0 {sim_time+delay} {delay} 100n
.four {f} 50 -1 v(out)
.option plotwinsize=0 NoOpiter numdgt=15
; .step param vol list  0.25 0.5 0.75 1
* .ac dec 1000 1 10meg
* .noise out in dec 1000 1 1meg
* Notch filter for time domain distortion test
* f - Input frequency\na - Input amplitude\nvol - Volume\nsquare - Set to non-zero for square wave input\nsim_time - Simulation time (not counting settling delay)\ndelay - Settling delay. Set to several seconds for accurate THD\ndc_coupled = Shorts high value capacitors to allow for quick THD checks
.backanno
.end
